US08440785B2
Synthesis of 5,6-bis(2-ethylhexyl)naphtho[2,1-b:3,4-b′]dithiophene
A dry 500 mL 3-neck flask, flushed with dry nitrogen, was charged with 5 g (10.7 mmol) of 3,3′-(4,5-bis(2-ethylhexyl)-1,2-phenylene)dithiophene. The flask was evacuated and backfilled with nitrogen 3 times. Dry CH2Cl2 (214 mL, 0.05 M) was added to the flask via cannula. The solution was bubbled with nitrogen for 15 min. The solution was then cooled to 5° C. and BF3.Et2O (1.61 mL, 12.9 mmol) was added. DDQ (2.43 g, 10.7 mmol) was added in 0.5 g increments over 30 min. The reaction was monitored by TLC using C18 silica plates in methanol. After DDQ addition was completed, continued to monitor the reaction. At 15 min after DDQ addition, added another 0.1 g of DDQ followed by another 0.1 g addition at 18 min after first DDQ addition. At 30 min after initial DDQ addition, 0.3 mL of BF3.Et2O was added followed by another 1 mL of BF3.Et2O at 40 min. At 1 h after initial DDQ addition was complete, no starting material was noticed by TLC and the reaction was quenched by the adding 3 g of Zn powder followed by stirring of the reaction for 2 h. The mixture was diluted with 200 mL of methanol and stirred for another hour. The mixture was diluted with water and extracted with chloroform (3×500 mL). The organic fractions were dried over MgSO4 and then concentrated. The product was purified by column chromatography using hexane as the eluent to yield the product as pale yellow oil that crystallized upon standing (3.2 g, 64%). 1H NMR (300 MHz, CDCl3): δH 7.90 (d, 2H), 7.37 (d, 2H), 2.77 (m, 4H), 1.72 (m, 16H), 0.89 (m, 12H).

reactant | 3,3′-(4,5-bis(2-ethylhexyl)-1,2-phenylene)dithiophene | 10.7 mmol, 5 g | C(C)C(CC1=CC(=C(C=C1CC(CCCC)CC)C1=CSC=C1)C1=CSC=C1)CCCC | C30H42S2
reactant | BF3.Et2O | 12.9 mmol, 1.61 mL | B(F)(F)F.CCOCC
reactant | DDQ | 10.7 mmol, 2.43 g | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
reactant | DDQ | 0.1 g | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
reactant | BF3.Et2O | 0.3 mL | B(F)(F)F.CCOCC
reactant | BF3.Et2O | 1 mL | B(F)(F)F.CCOCC
solvent | methanol | CO | CH4O
product | 5,6-bis(2-ethylhexyl)naphtho[2,1-b:3,4-b′]dithiophene | C(C)C(CC=1C=C2C(=CC1CC(CCCC)CC)C1=C(SC=C1)C=1SC=CC12)CCCC | C30H40S2
